US04754084
The general procedure was followed using 11.0 g of 1-vinyl-2-trifluoromethyl-2,3,3-trifluorocyclobutane dissolved in 11.15 g of benzene as the liquid feed at a flow rate of 1 ml/hr. Nitrogen was used as the inert carrier. The reactor was charged with 2.0 g of activated carbon. At 400° C. 41% of o-trifluoromethylfluorobenzene was produced.

reactant | 1-vinyl-2-trifluoromethyl-2,3,3-trifluorocyclobutane | 11.0 g | C(=C)C1C(C(C1)(F)F)(F)C(F)(F)F | C7H6F6
solvent | benzene | 11.15 g | C1=CC=CC=C1 | C6H6
product | o-trifluoromethylfluorobenzene | 41% | FC(C1=C(C=CC=C1)F)(F)F | C7H4F4
